US07163937B2
Preparation C1, Step 2: A mixture of 5-Bromo-2-tert-butyl-pyrimidine-4-carboxylic acid (1.65 g, 6.37 mmol) and aqueous sodium hydroxide (1.0 N, 19.1 mL, 19.1 mmol) in methanol (100 ml) was treated with a catalytic amount of 10% palladium on carbon. The mixture was degassed under vacuum/nitrogen, then hydrogenated at 50 psi for 2 hours. The catalyst was removed by filtration, the methanol was removed under vacuum, and the aqueous was acidified by the addition of 1.0 N aqueous hydrochloric acid (40 mL). The resulting suspension was extracted with ethyl acetate (4×50 mL), the combined organic phases were washed with brine, dried over sodium sulfate, and concentrated in-vacuo to yield 1.06 g of 2-tert-butylpyrimidine-4-carboxylic acid as a white powder. MS (ES+)=181 (M+H+).

reactant | 5-Bromo-2-tert-butyl-pyrimidine-4-carboxylic acid | 6.37 mmol, 1.65 g | BrC=1C(=NC(=NC1)C(C)(C)C)C(=O)O | C9H11BrN2O2
reactant | sodium hydroxide | 19.1 mmol, 1.0 N, 19.1 mL | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 2-tert-butylpyrimidine-4-carboxylic acid | 1.06 g | C(C)(C)(C)C1=NC=CC(=N1)C(=O)O | C9H12N2O2
